US08865736B2
2,6-Difluoro-3-[4-(4-methoxy-phenyl)-oxazol-2-ylmethoxy]-benzamide
To a solution of 3-[5-Bromo-4-(4-methoxy-phenyl)-oxazol-2-ylmethoxy]-2,6-difluoro-benzamide (0.06 g, 0.13 mmol) in the 5 ml of acetic acid was added 50 mg of Zn dust. Reaction mixture was heated at 120° C. for 1 h. After the completion of the reaction mixture (TLC monitoring), water (25 mL) was added and pH was adjusted to 8-9 with NaOH solution and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated to get the desired product (0.02 g, 40%) as a white solid. 1H NMR (DMSO-d6, 400 MHz): δ 3.77 (s, 3H), 5.36 (s, 2H), 6.99 (d, J=8.40 Hz, 2H), 7.12 (m, 1H), 7.37 (m, 1H), 7.71 (d, J=8.40 Hz, 2H), 7.87 (br s, 1H), 8.15 (br s, 1H) and 8.56 (s, 1H). MS ES+ (361.24), HPLC (method I) Rt=15.41 min.

reactant | 3-[5-Bromo-4-(4-methoxy-phenyl)-oxazol-2-ylmethoxy]-2,6-difluoro-benzamide | 0.13 mmol, 0.06 g | BrC1=C(N=C(O1)COC=1C(=C(C(=O)N)C(=CC1)F)F)C1=CC=C(C=C1)OC | C18H13BrF2N2O4
reactant | water | 25 mL | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | Zn | 50 mg | [Zn] | Zn
product | 2,6-Difluoro-3-[4-(4-methoxy-phenyl)-oxazol-2-ylmethoxy]-benzamide | 0.02 g, 40% | FC1=C(C(=O)N)C(=CC=C1OCC=1OC=C(N1)C1=CC=C(C=C1)OC)F | C18H14F2N2O4
